* Z:\home\oscar\CIREL\2016-10-04 (1).asc
C1 N002 N001 2µ
V1 N001 0 SINE(0 10 2k)
V2 N004 0 0
R1 N002 N004 1.5k
Icontrol 0 Control 10m
R2 N003 Señal 1k
R3 N003 Control 300
R4 Salida N003 1k
C2 Salida 0 2n
D1 N003 0 1N4148
B1 Señal 0 V=50*I(V2)
.model D D
.lib C:\users\oscar\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
;op
;dc Icontrol -10m 100m 0.5m
;ac dec 50 1 1e6
.tran 0 8m 5m 5u
.backanno
.end
